US05140034
d) 5-(5-Methyl-1H-imidazol-4-yl)-3-(1-methyl-1H-indol-3-yl)-1,2,4-oxadiazolehydrochloride
3-(1-Methyl-1H-indol-3-yl)-5-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)-1,2,4-oxadiazole (1.1 g) was suspended in methanolic hydrogen chloride. The mixture was stirred for 30 minutes and was refrigerated for 6 h. The title compound was filtered yielding (0.5 g) as a white powder, m.p. 260°-262° C. Found: C, 57,02; H, 4.58; N, 22.07; C15H13N5O.HCl requires C, 57.06; H, 4.47; N, 22.19%; δH (360 MHz, DMSO-d6) 2.70 (3H, s, CH3), 3.92 (3H, s, N-CH3), 7.27 (1H, t, J=6.2 Hz, CH), 7.32 (1H, t, J=6.1 Hz, CH), 7.59 (1H, d, J=7.5 Hz, CH), 8.10 (1H, d, J=7.5 Hz, CH), 8.17 (1H, s, CH), 8.68 (1 H, s, CH); m/z 279 (M+, 70%).

reactant | 3-(1-Methyl-1H-indol-3-yl)-5-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)-1,2,4-oxadiazole | 1.1 g | CN1C=C(C2=CC=CC=C12)C1=NOC(=N1)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H27N5O
reactant | hydrogen chloride | Cl | ClH
product | 5-(5-Methyl-1H-imidazol-4-yl)-3-(1-methyl-1H-indol-3-yl)-1,2,4-oxadiazolehydrochloride | Cl.CC1=C(N=CN1)C1=NC(=NO1)C1=CN(C2=CC=CC=C12)C | InChI=1S/C15H13N5O.ClH/c1-9-13(17-8-16-9)15-18-14(19-21-15)11-7-20(2)12-6-4-3-5-10(11)12;/h3-8H,1-2H3,(H,16,17);1H
